US08022076B2
5-Phenyl-3H-thieno[2,3-d]pyrimidin-4-one (294.6 g, 1.29 mol) was added in portions to stirred phosphoryl chloride (1000 ml), then the stirred suspension was warmed gently to reflux temperature, heated under reflux for 4 hours, and allowed to stand at ambient temperature for 18 hours. The resulting dark solution was removed by decantation from a solid residue and concentrated in vacuo to give a gummy solid. The two solids were combined and added to crushed ice (1000 ml). The product was extracted into dichloromethane (3×500 ml), then the combined extracts were washed with water (2×300 ml) and saturated aqueous sodium hydrogen carbonate solution (500 ml) and dried and decolourised (MgSO4+charcoal). The solvent was removed in vacuo to give 4-Chloro-5-phenyl-thieno[2,3-d]pyrimidine as a yellow/orange solid which was used without further purification.

reactant | 5-Phenyl-3H-thieno[2,3-d]pyrimidin-4-one | 1.29 mol, 294.6 g | C1(=CC=CC=C1)C1=CSC=2N=CNC(C21)=O | C12H8N2OS
reactant | phosphoryl chloride | 1000 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-phenyl-thieno[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C12H7ClN2S
